US08633186B2
Ethyl 1-(propylcarbamoyl)cyclopropanecarboxylate
To a solution of 1-(ethoxycarbonyl)cyclopropanecarboxylic acid (Wheeler, T. N.; Ray, J. A. Synthetic Communications 1988, 18(2), 141) (1.52 g, 9.62 mmol) and n-propylamine (0.63 g, 10.58 mmol) in anhydrous DMF (65 mL) at rt, were added NaHCO3 (4.04 g, 48.11 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (2.21 g, 11.54 mmol) and 1-hydroxybenzotriazole hydrate (1.77 g, 11.54 mmol) under a nitrogen atmosphere. After being stirred at rt overnight, the mixture was partitioned between water (100 mL) and EtOAc (300 mL). The organic phase was separated, washed with water and brine, and was dried over anhydrous MgSO4. The filtrate was evaporated to give 1.65 g (86%) of the crude product which was used in the next step without purification. 1H-NMR (400 MHz, DMSO-d6) δ 8.33 (broad s, 1H), 4.08 (q, J=6.8 Hz, 2H), 3.07 (q, J=6.4 Hz, 2H), 1.43 (hex, J=6.4 Hz, 2H), 1.31 (s, 4H), 1.17 (t, J=6.4 Hz, 3H), 0.85 (t, J=7.2 Hz, 3H).

reactant | 1-(ethoxycarbonyl)cyclopropanecarboxylic acid | C(C)OC(=O)C1(CC1)C(=O)O | C7H10O4
reactant | n-propylamine | 10.58 mmol, 0.63 g | C(CC)N | C3H9N
reactant | NaHCO3 | 48.11 mmol, 4.04 g | C(=O)(O)[O-].[Na+]
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 11.54 mmol, 2.21 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 11.54 mmol, 1.77 g | O.ON1N=NC2=C1C=CC=C2
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
product | Ethyl 1-(propylcarbamoyl)cyclopropanecarboxylate | 1.65 g, 86% | C(CC)NC(=O)C1(CC1)C(=O)OCC | C10H17NO3
